US07119109B2
b) (R)-1,1,1-Trifluoro-4-iodo-2-butanol
Triphenylphosphine (5.09 g, 19.4 mmol) was dissolved in dichloromethane (66 mL) and treated with imidazole (1.33 g, 19.5 mmol) and iodine (4.92 g, 19.4 mmol), respectively, to give an orange suspension. A solution of (R)-4,4,4-trifluoro-1,3-butanediol (2.34 g, 16.2 mmol) in dichloromethane (18 mL) was added to the suspension and stirred for 30 minutes. The reaction mixture was placed on a silica gel flash column and eluted with 100% dichloromethane to give the product as a pale purple oil (3.30 g, 80%).

reactant | Triphenylphosphine | 19.4 mmol, 5.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 19.5 mmol, 1.33 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 19.4 mmol, 4.92 g | II | I2
reactant | (R)-4,4,4-trifluoro-1,3-butanediol | 16.2 mmol, 2.34 g | FC([C@@H](CCO)O)(F)F | C4H7F3O2
solvent | dichloromethane | 66 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | (R)-1,1,1-Trifluoro-4-iodo-2-butanol | 3.30 g, 80% | FC([C@@H](CCI)O)(F)F | C4H6F3IO
